US07232903B2
In a 200 mL volume glass vessel equipped with a stirrer and a thermometer were placed 10.0 g (38 mmol) of 5-iodoanthranilic acid and 100 mL (780 mmol) of 15 wt. % ammonia methanol solution. The reaction was carried out for 3 hours at room temperature. After the reaction was complete, the reaction mixture was concentrated under reduced pressure, to obtain 9.0 g (isolated yield: 85%) of ammonium 5-iodoanthranilate as pale red solid.

reactant | 5-iodoanthranilic acid | 38 mmol, 10.0 g | IC1=CC=C(C(C(=O)O)=C1)N | C7H6INO2
reactant | ammonia methanol | CO.N
product | ammonium 5-iodoanthranilate | 9.0 g, yield: 85% | IC1=CC=C(C(C(=O)[O-])=C1)N.[NH4+] | InChI=1S/C7H6INO2.H3N/c8-4-1-2-6(9)5(3-4)7(10)11;/h1-3H,9H2,(H,10,11);1H3
